US04985419
A solution of benzylamine (3.18 cc) in methanol (5 cc) is added dropwise in the course of 5 minutes to a solution, cooled to 0°-5° C., of methyl 10-[(2RS)-1-diethylamino-2-propyl]-2-phenothiazinecarboximidate dihydrochloride (3.49 g) in methanol (21 cc). The mixture is stirred for 2 hours at 5° C. and is then concentrated to dryness at 50° C. under reduced pressure (30 mm Hg; 4 kPa) to give a residue which is taken up with distilled water (50 cc). The solution is washed with distilled water (50 cc) alkalinized to a pH in the region of 9 with N sodium hydroxide. The two phases are allowed to settle and the organic phase is separated and washed with half-saturated sodium chloride solution (50 cc), dried over magnesium sulphate, filtered and then concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 50° C. The residue is purified by chromatography on a column of neutral alumina (height: 24 cm; diameter: 2.1 cm), eluting successively with mixtures of cyclohexane and ethyl acetate in proportions of 50:50 (500 cc) and 25:75 (500 cc), then with pure ethyl acetate (500 cc) and finally with mixtures of ethyl acetate and methanol in proportions of 95:5 (500 cc) and 90:10 (500 cc) and collecting 50-cc fractions. Fractions 35 to 53 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 50° C. to give N-benzyl-10-[ (2RS)-1-diethylamino-2-propyl]-2-phenothiazinecarboxamidine (0.96 g) in the form of a yellow product of meringue-like consistency.

reactant | benzylamine | 3.18 cc | C(C1=CC=CC=C1)N | C7H9N
reactant | methyl 10-[(2RS)-1-diethylamino-2-propyl]-2-phenothiazinecarboximidate dihydrochloride | 3.49 g | Cl.Cl.C(C)N(CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(OC)=N)CC
reactant | water | 50 cc | O | H2O
solvent | methanol | 5 cc | CO | CH4O
solvent | methanol | 21 cc | CO | CH4O
product | N-benzyl-10-[ (2RS)-1-diethylamino-2-propyl]-2-phenothiazinecarboxamidine | 0.96 g | C(C1=CC=CC=C1)NC(=N)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN(CC)CC)C | C27H32N4S
